US04755517
0.35 g 1,3-Dipropyl-8-(2-furanyl)xanthine is dissolved in 50 ml methanol, to which is added 0.5 g Raney nickel and the mixture reduced under a hydrogen atmosphere of 200 psi at 100° C. The mixture is then filtered, the filtrate concentrated to yield 0.34 g of the 1,3-dipropyl-8-(2-tetrahydrofuranyl)xanthine as a white solid, mp 155°-8° C.

reactant | 1,3-Dipropyl-8-(2-furanyl)xanthine | 0.35 g | C(CC)N1C(=O)N(C=2N=C(NC2C1=O)C=1OC=CC1)CCC | C15H18N4O3
solvent | methanol | 50 ml | CO | CH4O
catalyst | Raney nickel | 0.5 g | [Ni] | Ni
product | 1,3-dipropyl-8-(2-tetrahydrofuranyl)xanthine | 0.34 g | C(CC)N1C(=O)N(C=2N=C(NC2C1=O)C1OCCC1)CCC | C15H22N4O3
